US05874593
First, 71.2 mmol of 2-chlorobenzonitrile was dissolved in 50 ml of methanol, and 356 mmol of hydrazine and 35.6 mmol of 28% methylate were added thereto, followed by keeping at the reflux temperature for 5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in 50 ml of 50% hydrochloric acid, and 74.8 mmol of sodium nitrite was added thereto at 0° C. to cause reaction. The reaction mixture was extracted with ethyl acetate to give 5-(2-chlorophenyl)tetrazole. Yield, 70%.

reactant | 2-chlorobenzonitrile | 71.2 mmol | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | hydrazine | 356 mmol | NN | H4N2
reactant | sodium nitrite | 74.8 mmol | N(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(2-chlorophenyl)tetrazole | ClC1=C(C=CC=C1)C1=NN=NN1 | C7H5ClN4
